US07576204B2
(8E,12E,14E)-21-benzoyloxy-3,6-dihydroxy-6,10,12,16,20-pentamethyl-7-((4-methylpiperazin-1-yl)carbonyl)oxy-18,19-epoxytricosa-8,12,14-trien-11-olide (Compound 1)
(8E,12E,14E)-21-benzoyloxy-6-(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-((4-methylpiperazin-1-yl)carbonyl)oxy-3-triethylsiloxy-18,19-epoxytricosa-8,12,14-trien-11-olide (19.7 mg, 21.6 μmol) was dissolved in methanol (1 mL). Pyridinium p-toluenesulfonate (12.2 mg, 48.5 μmol) was added to the reaction solution at room temperature, and the reaction solution was stirred at the same temperature for 5.5 hours. The reaction solution was concentrated, and the concentrate was suspended in ethyl acetate (30 mL). This suspension was washed with a saturated aqueous solution of sodium hydrogencarbonate (6 mL) twice, purified water (6 mL) twice, and brine (6 mL). The resulting organic layer was dried over sodium sulfate, and then filtered. The filtrate was concentrated. The concentrate was purified by thin-layer chromatography (Fuji Silysia, NH Silica gel Plate; chloroform:methanol=40:1) to obtain the title compound (14.3 mg, 19.7 μmol, 91.2%) as a colorless oil.

reactant | (8E,12E,14E)-21-benzoyloxy-6-(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-((4-methylpiperazin-1-yl)carbonyl)oxy-3-triethylsiloxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 21.6 μmol, 19.7 mg | C(C1=CC=CC=C1)(=O)OC(C(C1C(CC(/C=C/C=C(/C2C(/C=C/C(C(CCC(CC(=O)O2)O[Si](CC)(CC)CC)(C)OC(C)OCC)OC(=O)N2CCN(CC2)C)C)\C)C)O1)C)CC | C51H82N2O10Si
reactant | Pyridinium p-toluenesulfonate | 48.5 μmol, 12.2 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | methanol | 1 mL | CO | CH4O
product | (8E,12E,14E)-21-benzoyloxy-3,6-dihydroxy-6,10,12,16,20-pentamethyl-7-((4-methylpiperazin-1-yl)carbonyl)oxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 19.7 μmol, 14.3 mg, 91.2% | C(C1=CC=CC=C1)(=O)OC(C(C1C(CC(/C=C/C=C(/C2C(/C=C/C(C(CCC(CC(=O)O2)O)(C)O)OC(=O)N2CCN(CC2)C)C)\C)C)O1)C)CC | C41H60N2O9
